US04481366
A reactor flushed with argon gas was cooled with a dry ice-ethanol cooling medium, and 2.03 g (0.0174 mol) of chlorotrifluoroethylene was introduced into the reactor. To this reactor, 17 ml of THF was introduced to bring the chlorotrifluoroethylene concentration to 1 mmol/ml, and then 2.35 g (0.016 mol) of chlorotriethylsilane was added. The reactor was cooled to -78° C., and 12 ml (0.018 mol) of butyllithium (1.47M hexane solution) was added in 1 hour. The mixture was stirred at 78° C. for 4 hours and at room temperature for about 1 hour. Workup was conducted in the same manner as in Example 1, whereby 2.64 g (86.2%) of triethyltrifluorovinylsilane was obtained.

reactant | dry ice ethanol | C(=O)=O.C(C)O
reactant | chlorotrifluoroethylene | 0.0174 mol, 2.03 g | ClC(=C(F)F)F | C2ClF3
reactant | chlorotriethylsilane | 0.016 mol, 2.35 g | Cl[Si](CC)(CC)CC | C6H15ClSi
reactant | butyllithium | 0.018 mol, 1.47M, 12 ml | C(CCC)[Li]
solvent | THF | 17 ml | C1CCOC1 | C4H8O
product | triethyltrifluorovinylsilane | 2.64 g, 86.2% | C(C)[Si](C(=C(F)F)F)(CC)CC | C8H15F3Si
